US09290517B2
2-[[(3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]acetaldehyde
Sodium periodate (53.4 mg, 0.250 mmol) was added to a stirred suspension of 2-[[2-[[(3R,3aR,6R,6aR)-3-allyloxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-5-(4-phenylphenyl)imidazo[4,5-b]pyridin-1-yl]methoxy]ethyl-trimethyl-silane (68.9 mg, 0.111 mmol) and ruthenium(III) chloride hydrate (1.9 mg, 8.43 μmol) in acetonitrile (0.95 ml) and water (0.16 ml). The reaction mixture was stirred at room temperature for 4 h. Additional sodium periodate (31.8 mg, 0.149 mmol) was added and the reaction mixture was stirred for 2 h at room temperature, then in the refrigerator overnight. The reaction mixture was allowed to warm to room temperature before being partitioned between EtOAc (40 ml) and saturated aqueous sodium thiosulfate (30 ml). An inseparable emulsion formed, which was filtered through a pad of Celite™. The biphasic filtrate was re-partitioned and the aqueous layer was extracted with EtOAc (2×20 ml). The organic layers were combined, washed with brine (1×15 ml), dried over MgSO4, filtered, and evaporated under reduced pressure to give a colorless residue. The residue was dissolved in EtOAc and loaded onto two 500 micron 20 cm×20 cm silica gel plates, which were developed using 10% MeOH/DCM. The silica containing the desired product band was collected and eluted with 10% MeOH/DCM (80 ml). The solvent was evaporated under reduced pressure and the resulting residue was lyophilized from ethanol and benzene to give the title compound as a white solid. LC-MS: calculated for C32H36ClN3O6Si 621.21 observed m/e: 622.31 (M+H)+ (Rt 1.34/2 min)

reactant | Sodium periodate | 0.250 mmol, 53.4 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | 2-[[2-[[(3R,3aR,6R,6aR)-3-allyloxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-5-(4-phenylphenyl)imidazo[4,5-b]pyridin-1-yl]methoxy]ethyl-trimethyl-silane | 0.111 mmol, 68.9 mg | C(C=C)O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=CC=C1)N2)COCC[Si](C)(C)C | C33H38ClN3O5Si
reactant | sodium periodate | 0.149 mmol, 31.8 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | MeOH DCM | CO.C(Cl)Cl
solvent | acetonitrile | 0.95 ml | C(C)#N | C2H3N
solvent | water | 0.16 ml | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | ruthenium(III) chloride hydrate | 8.43 μmol, 1.9 mg | O.[Ru](Cl)(Cl)Cl
product | 2-[[(3R,3aR,6R,6aR)-6-[6-chloro-5-(4-phenylphenyl)-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-2-yl]oxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-3-yl]oxy]acetaldehyde | ClC=1C=C2C(=NC1C1=CC=C(C=C1)C1=CC=CC=C1)N=C(N2COCC[Si](C)(C)C)O[C@@H]2CO[C@H]1[C@@H]2OC[C@H]1OCC=O | C32H36ClN3O6Si
